US08193164B2
Intermediate SA N-{(1S,2R,3S,4R)-2,3-Dihydroxy-4-[6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-2-(4-nitro-imidazol-1-yl)-purin-9-yl]-cyclopentyl}-2-hydroxy-acetamide
The title compound can be prepared from N-{(1S,2R,3S,4R)-4-[6-((S)-1-benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate GC) and 4-nitro-imidazole, as described for N-{(1S,2R,3S,4R)-4-[6-(2,2-diphenyl-ethylamino)-2-(4-nitro-pyrazol-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate QD).

reactant | N-{(1S,2R,3S,4R)-4-[6-((S)-1-benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | C(C1=CC=CC=C1)[C@@H](CO)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O | C21H25ClN6O5
reactant | 4-nitro-imidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
product | N-{(1S,2R,3S,4R)-2,3-Dihydroxy-4-[6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-2-(4-nitro-imidazol-1-yl)-purin-9-yl]-cyclopentyl}-2-hydroxy-acetamide | O[C@@H]1[C@H](C[C@H]([C@@H]1O)N1C2=NC(=NC(=C2N=C1)N[C@@H](CC1=CC=CC=C1)CO)N1C=NC(=C1)[N+](=O)[O-])NC(CO)=O | C24H27N9O7
